US06455566B1
1-(4-Chloro-2-methyl-phenyl)-3-(4-methyl-oxazol-2-yl)-thiourea
Prepared using Method A from 4.04 g (22 mmol) of 4-chloro-2-methyl-phenyl isothiocyanate and 2.16 g (22 mmol) of 2-amino-4-methyloxazole to give 4.5 g of crude title compound. Pure title compound was obtained by flash chromatography (silica Merck 60, CH2Cl2-CH3OH, 19:1) and crystallization from CH3CN to give 2.12 g of the title compound as a yellow solid (72.5% yield, m.p. 214° C. with decomposition).

reactant | 4-chloro-2-methyl-phenyl isothiocyanate | 22 mmol, 4.04 g | ClC1=CC(=C(C=C1)N=C=S)C | C8H6ClNS
reactant | 2-amino-4-methyloxazole | 22 mmol, 2.16 g | NC=1OC=C(N1)C | C4H6N2O
reactant | CH2Cl2 CH3OH | C(Cl)Cl.CO
solvent | CH3CN | CC#N | C2H3N
product | 1-(4-Chloro-2-methyl-phenyl)-3-(4-methyl-oxazol-2-yl)-thiourea | ClC1=CC(=C(C=C1)NC(=S)NC=1OC=C(N1)C)C | C12H12ClN3OS
